US07517994B2
Step B: Preparation of diethyl 2-(2-methyl-2-propionylhydrazono)malonate:
A solution of N-methylpropionohydrazide (18.78 g, 183.9 mmol) and diethyl ketomalonate (56.1 mL, 368 mmol) in toluene (136 mL) was refluxed with a Dean-Stark trap for 4 hours. The reaction mixture was concentrated under reduced pressure to give the crude material that was purified by silica gel flash column chromatography (100% hexanes to 5 to 10% EtOAc in hexanes) to afford 23 g (49%) of the desired product.

reactant | N-methylpropionohydrazide | 183.9 mmol, 18.78 g | CN(N)C(CC)=O | C4H10N2O
reactant | diethyl ketomalonate | 368 mmol, 56.1 mL | O=C(C(=O)OCC)C(=O)OCC | C7H10O5
solvent | toluene | 136 mL | C1(=CC=CC=C1)C | C7H8
product | diethyl 2-(2-methyl-2-propionylhydrazono)malonate | 23 g, 49% | CN(N=C(C(=O)OCC)C(=O)OCC)C(CC)=O | C11H18N2O5
